US04248877
EXAMPLE 5: 2-[1-(4-p-fluorophenyl-4-oxobutyl)-4-hydroxy-4-piperidyl]-N-phenylpropionamide [process variant (c)]
11.0 g of potassium carbonate are added to a solution of 11.0 g of crude 2-(4-hydroxy-4-piperidyl)-N-phenylpropionamide in 150 cc of dimethyl acetamide and the mixture is heated to 100° while stirring. A solution of 13.1 g of 2-(3-chloropropyl)-2-(p-fluorophenyl)-1,3-dioxolane in 20 cc of dimethyl acetamide is subsequently added dropwise while stirring vigorously and the temperature is kept at 100° for 4 hours. The solution is subsequently cooled and the potassium carbonate is filtered off and the filtrate concentrated by evaporation at reduced pressure. The resulting compound is used for the next reaction without purification.

reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-hydroxy-4-piperidyl)-N-phenylpropionamide | 11.0 g | OC1(CCNCC1)C(C(=O)NC1=CC=CC=C1)C | C14H20N2O2
reactant | 2-(3-chloropropyl)-2-(p-fluorophenyl)-1,3-dioxolane | 13.1 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)F | C12H14ClFO2
solvent | dimethyl acetamide | 150 cc | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 20 cc | CC(=O)N(C)C | C4H9NO
product | 2-[1-(4-p-fluorophenyl-4-oxobutyl)-4-hydroxy-4-piperidyl]-N-phenylpropionamide | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)(O)C(C(=O)NC1=CC=CC=C1)C)=O | C24H29FN2O3
